US07795283B2
iv) Ethyl [3-(4-{[(trifluoromethyl)sulphonyl]oxy}phenyl)cyclohexyl]acetate
Ethyl [3-(4-hydroxyphenyl)cyclohexyl]acetate (329 mg, 1.25 mmol) was stirred in dry DCM (15 mL) under nitrogen. The mixture was cooled with an ice bath and trifluoromethanesulphonic anhydride (0.264 mL, 1.57 mmol) was added. Triethylamine (0.263 mL, 1.88 mmol) was then added dropwise over 5 minutes, keeping the temperature below 10° C. and the mixture was stirred for 2 h. Saturated aqueous sodium hydrogen carbonate solution (10 mL) was added, the layers were separated and the aqueous phase was extracted with DCM (20 mL). The organic layers were dried and concentrated by evaporation to give an oil that was purified by chromatography eluting with 0-40% EtOAc/isohexane to give the title compound (345 mg, 70%) as an oil; 1H NMR δ 0.94-2.00 (9H, s), 1.16 (3H, m), 2.23 (1H, d), 2.47 (1H, d), 2.62-2.85 (1H, m), 4.01-4.09 (2H, m), 7.41-7.44 (4H, m); MS m/e (M−H)− 393.

reactant | Ethyl [3-(4-hydroxyphenyl)cyclohexyl]acetate | 1.25 mmol, 329 mg | OC1=CC=C(C=C1)C1CC(CCC1)CC(=O)OCC | C16H22O3
reactant | trifluoromethanesulphonic anhydride | 1.57 mmol, 0.264 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Triethylamine | 1.88 mmol, 0.263 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | Ethyl [3-(4-{[(trifluoromethyl)sulphonyl]oxy}phenyl)cyclohexyl]acetate | 345 mg, 70% | FC(S(=O)(=O)OC1=CC=C(C=C1)C1CC(CCC1)CC(=O)OCC)(F)F | C17H21F3O5S
